US07122580B2
To a solution of 4-bromophthalic acid (3.0 g, 12.24 mmol) in 30 mL of THF was added a solution of borane-THF complex (1.0M) dropwise at 0° C. The solution was warmed to rt and stirred for 3 h. The reaction mixture was quenched by addition of HCl (2N) at 0° C. The product was extracted with ethyl acetate and washed with sat. NaCl, dried over Na2SO4, and concentrated under reduced pressure to afford 2.8 g (100%) of 4-bromo-2-hydroxymethylbenzyl alcohol as a colorless oil. 1H NMR (CDCl3) 7.28 (m, 2H), 7.26 (m, 1H), 4.69 (s, 4H), 2.80 (bs, 2H).

reactant | 4-bromophthalic acid | 12.24 mmol, 3.0 g | BrC=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H5BrO4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-bromo-2-hydroxymethylbenzyl alcohol | 2.8 g, 100% | BrC1=CC(=C(CO)C=C1)CO | C8H9BrO2
